US09056874B2
2-(1-(5-Ethyl-7-methyl-1-tosyl-1H-indol-4-yl)vinyl)-1H-benzo[d]imidazole-5-carbonitrile
A solution of a mixture of 2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)vinyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and 2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)vinyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (100 mg, 0.164 mmol) in 1M HCl in MeOH (10 mL) was stirred at 60° C. for 5 h. The reaction mixture was cooled to room temperature. The reaction mixture was diluted with CH2Cl2. The layers were separated and the organic phase was successively washed with 5% aq. NaHCO3, H2O and brine, dried over Na2SO4, and filtered. Concentration of the filtrate gave the title compound, without need of any further purification. MS (ESI+) m/z 481.2 (M+H).

reactant | 2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)vinyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(=C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N | C34H38N4O3SSi
reactant | 2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)vinyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 0.164 mmol, 100 mg | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(=C)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N | C34H38N4O3SSi
solvent | HCl | 1M | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(1-(5-Ethyl-7-methyl-1-tosyl-1H-indol-4-yl)vinyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(=C)C1=NC2=C(N1)C=CC(=C2)C#N | C28H24N4O2S
